Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Lethargy, Left Flank Pain
 
Major Surgical or Invasive Procedure:
Pacemaker Implant ___

 
History of Present Illness:
___ yo M with hx atrial fibrillation on anticoagulation, HLD, and 
OSA who presented with increasing lethargy and left flank pain 
found to be bradycardic. 

Started having heavy pain along lower left back rib on yesterday 
mid morning. Pain was ___ with throbbing pain, non-radiating, 
never had before. Improves with standing up. Denied trauma or 
falls. Was doing yardwork two days ago and picked up a large 
basin from reaching over and may have sprained a muscle. Denies 
associated urinary frequency, dysuria, hematuria, fevers, 
chills.
Also noted more lethargy for the last few days, having to force 
himself to do things. No associated CP, palpitations, 
dizziness,syncope, headaches, cough, congestion, sore throat, 
nausea, vomiting, abdominal pain, rash. Denies bug bites, 
hiking, biking; does interact with dogs daily but no recent 
bites. No sick contacts. 

The morning of admission, his friend checked his pulse and noted 
it to be low in the ___. Flank pain also came back so patient 
presented to the ED. The patient has had one prior episode of 
bradycardia to the ___ for which he was evaluated at ___ 
in ___. At that time, patient had a sinus rhythm and recovered 
to the ___ without any intervention. He was observed in the
ICU for 1 night and seen by cardiology. He has not had any 
additional episodes. 

 
Past Medical History:
atrial fibrillation on anticoagulation
hyperlipidemia
obstructive sleep apnea
Cochlear implant in place
Squamous cell carcinoma in situ of skin
Erectile dysfunction

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.
 
Physical Exam:
Admission:
==========
VITALS: T 98.3, BP 123/69, HR 62, RR 16, PO2 99 RA; ambulatory 
HR
augmented to ___ 
GENERAL: Well-developed, well-nourished. NAD. Mood, affect
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no
pallor or cyanosis of the oral mucosa. No xanthelasma.  
NECK: Supple with JVP of 8 cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. RRR, normal S1, S2. No murmurs/rubs/gallops. No thrills,
lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  
 
Discharge:
==========
VS: 97.8 PO 113 / 70 R Lying 59 18 98 Ra 
Weight:  67.0 kg   (147.71 lb) 
GEN: Elderly gentleman, well appearing, NAD. hard of hearing.
NEURO: A&O x 3,  pleasant and conversant, no focal deficits  
HEENT:  normocephalic, MMM, supple, trachea midline, no JVD 
CV: RRR , S1S2, no MRG
PULM: LS CTA bilaterally
ABD:  soft, nontender, BS x4, no HSM
EXT: No edema bilaterally, 2+ ___, DP
SKIN: warm, dry, intact, no open lesions
GU: Voiding 
Access: L chest wall site with CDI dressing, no hematoma, 
swelling, ecchymosis, or bleeding.

 
Pertinent Results:
Admission:
==========
___ 04:13PM BLOOD WBC-8.3 RBC-3.82* Hgb-12.2* Hct-38.1* 
MCV-100* MCH-31.9 MCHC-32.0 RDW-13.0 RDWSD-46.9* Plt ___
___ 04:13PM BLOOD Neuts-68.2 Lymphs-18.8* Monos-10.2 
Eos-1.9 Baso-0.5 Im ___ AbsNeut-5.68 AbsLymp-1.57 
AbsMono-0.85* AbsEos-0.16 AbsBaso-0.04
___ 04:13PM BLOOD ___ PTT-35.0 ___
___ 04:13PM BLOOD Glucose-96 UreaN-22* Creat-0.9 Na-142 
K-4.1 Cl-108 HCO3-24 AnGap-10
___ 07:18AM BLOOD ALT-37 AST-29 AlkPhos-71 TotBili-1.1
___ 07:18AM BLOOD Calcium-9.1 Phos-2.8 Mg-2.1

Thyroid:
========
___ 07:18AM BLOOD TSH-1.3

Cardiac:
========
___ 04:13PM BLOOD cTropnT-<0.01

ID:
===
URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

EP Procedure Report ___: 
========================
Findings: 
___ with symptomatic SSS referred for PPM implantation.
Ra/RV placed via L cephalic vein.
No complications.

PA/LAT ___:
================
___ Imaging CHEST (PA & LAT) 
IMPRESSION:  
In comparison with study of ___, there has been 
placement of a dual channel pacer via left subclavian approach 
with leads extending to the right atrium and right ventricle.  
No evidence post procedure pneumothorax. Little change in the 
appearance of the heart and lungs. 

Discharge Labs:
=================
___ 07:05AM BLOOD WBC-7.4 RBC-3.82* Hgb-12.3* Hct-38.4* 
MCV-101* MCH-32.2* MCHC-32.0 RDW-12.6 RDWSD-46.8* Plt ___
___ 06:20AM BLOOD ___
___ 06:20AM BLOOD Glucose-90 UreaN-17 Creat-0.9 Na-143 
K-4.3 Cl-108 HCO3-24 AnGap-11
___ 06:20AM BLOOD Mg-2.0
 
Brief Hospital Course:
Impression: ___ with a history of sinus bradycardia, paroxysmal 
atrial flutter, HLD,
and OSA who presented with increasing lethargy and left flank 
pain and episode of near syncope.
 
# Lethargy
# Sinus bradycardia: 
Has been followed by Dr. ___ conduction disease with
PR prolongation and RBBB/LAD with LAFB (suggesting trifascicular
block), appears to be becoming more problematic given
symptoms of lightheadedness recently, suspected worsening sinus
node dysfunction.  Recent echocardiogram in ___ without
sructural abnormalities.  TSH normal.  Lyme negative. PPM 
implanted ___. Reportedly moderate bleeding in procedure so 
holding AC x 2 days.
- Post device care
- Can resume Rivaroxaban ___.
- Consider outpatient cMRI to assess for etiology for conduction
disease (age, infarct, fibrosis, etc)

# Paroxysmal atrial fibrillation/flutter: unclear why INR high. 
1.6 at highest. LFTs normal.
-Rate control: None, bradycardic
-Anticoagulation: rivaroxaban 20mg qhs (Resume ___

# Left flank/rib pain: Work-up included CXR (no fx), UA/UCx (no 
infection), and cardiac (neg trop, EKG non-ischemic). Likely MSK 
in nature given hx heavly lifting/yardwork the day prior to 
presentation. No further pain at this time.
- Continue to monitor
- Tylenol/heat application if needed for comfort 

# OSA: 
- CPAP

# DISPO: Home today, no services needed 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rivaroxaban 20 mg PO DAILY 
2. Sildenafil 20 mg PO DAILY:PRN sex 

 
Discharge Medications:
1. HELD- Rivaroxaban 20 mg PO DAILY  This medication was held. 
Do not restart Rivaroxaban until ___.
2. HELD- Sildenafil 20 mg PO DAILY:PRN sex  This medication was 
held. Do not restart Sildenafil until your cardiologist tells 
you it is safe to resume.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Atrial Fibrillation
Bradycardia
Sick Sinus Syndrome 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
 You were admitted for a pacemaker because your heart rate was 
very slow. 
  
 Activity restrictions and information regarding care of the 
procedure site on your chest are included in your discharge 
instructions.  

 Continue all of your medications with the following changes:  
 - Do not restart Rivaroxaban until ___.

 Your rib/flank pain is likely musculoskeletal in nature. A 
chest x-ray confirmed you have no rib fracture. A urine test was 
normal. Cardiac blood tests we reassuring this was not heart 
related pain.

 If you have urgent questions related to your recovery from your 
procedure or are experiencing any symptoms that are concerning 
to you and you think you may need to return to the hospital, you 
may call the ___ HeartLine at ___ to speak to a 
cardiologist or cardiac nurse practitioner. If you are followed 
at ___, please call ___ or your Doctor's 
office.
 
 It has been a pleasure to have participated in your care and we 
wish you the best with your health!
  
 Your ___ Cardiac Care Team  

 
Followup Instructions:
___